US07534788B2
Step 5: 5-Chloro-6-(1-isopropyl-piperidin-4-yloxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester
The above prepared 5-chloro-6-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester (0.700 g, 2.75 mmol) was dissolved in 12 mL of THF and treated successively at −10° C. with 1-isopropyl-piperidin-4-ol (0.551 g, 1.4 eq.), triphenylphosphine (1.001 g, 1.4 eq.) and DIAD (0.755 mL, 1.4 eq.), and the mixture then kept at ambient temperature for another 4 h. Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, NEt3/AcOEt=2/98), produced 0.990 g of the title compound as light yellow gum.

reactant | 5-chloro-6-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 2.75 mmol, 0.700 g | C(C)OC(=O)C=1OC2=C(C1C)C=C(C(=C2)O)Cl | C12H11ClO4
reactant | 1-isopropyl-piperidin-4-ol | 0.551 g, 1.4 eq. | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | triphenylphosphine | 1.001 g, 1.4 eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 0.755 mL, 1.4 eq. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 5-Chloro-6-(1-isopropyl-piperidin-4-yloxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 0.990 g | C(C)OC(=O)C=1OC2=C(C1C)C=C(C(=C2)OC2CCN(CC2)C(C)C)Cl | C20H26ClNO4
